US09127032B2
Step 1: Synthesis of 4-tert-Butyl-6-hydroxypyrimidine
First, 7.2 g of formamidine hydrochloride, 7.5 g of sodium methoxide, and 70 mL of methanol were put into a 100 mL three-neck flask. Then, 10 g of methyl 4,4-dimethyl-3-oxovalerate was added to this mixed solution. The mixture was stirred at room temperature for 24 hours. After that, a mixed solution of 17 mL of water and 7.2 mL of acetic acid was added to the reacted solution, and the mixture was stirred at room temperature. This mixture was concentrated, and the resulting residue was dissolved in water. The solution was subjected to extraction with ethyl acetate. The obtained solution of the extract was washed with saturated brine, and magnesium sulfate was added for drying. After the drying, the solution was filtered. After the solvent of this solution was distilled off, the obtained solid was washed with ethyl acetate, so that the pyrimidine derivative to be produced was obtained as a white solid in a yield of 49%. A synthesis scheme of Step 1 is shown in (k-1).

reactant | formamidine hydrochloride | 7.2 g | Cl.C(=N)N
reactant | sodium methoxide | 7.5 g | C[O-].[Na+]
reactant | methanol | 70 mL | CO | CH4O
reactant | methyl 4,4-dimethyl-3-oxovalerate | 10 g | CC(C(CC(=O)OC)=O)(C)C | C8H14O3
solvent | acetic acid | 7.2 mL | C(C)(=O)O | C2H4O2
solvent | water | 17 mL | O | H2O
product | 4-tert-Butyl-6-hydroxypyrimidine | yield of 49% | C(C)(C)(C)C1=NC=NC(=C1)O | C8H12N2O
